US09260394B2
Isobutyraldehyde (370 μl, 4 mmol), isopropyl methyl ketone (250 μl, 4 mmol), malononitrile (264 mg, 4 mmol) e ammonium acetate (462 mg, 6 mmol) were placed in a microwave tube and irradiated with microwaves (Solvent: none; Power: 250 W; Ramp time: 1 min; Heating time: 10 min; Temperature: 100° C.; Pressure: 250 psi; Stirring: on; Cooling: on). At the end of the microwave irradiation cycle, the solvent was removed under reduced pressure. The crude product was purified by flash chromatography on silica gel (methylene chloride/methanol=90/10) to obtain 2-amino-4,6-diisopropylnicotinonitrile in 50% yield.

reactant | Isobutyraldehyde | 4 mmol, 370 μl | C(C(C)C)=O | C4H8O
reactant | isopropyl methyl ketone | 4 mmol, 250 μl | CC(=O)C(C)C | C5H10O
reactant | malononitrile | 4 mmol, 264 mg | C(CC#N)#N | C3H2N2
reactant | ammonium acetate | 6 mmol, 462 mg | C(C)(=O)[O-].[NH4+]
product | 2-amino-4,6-diisopropylnicotinonitrile | 50% yield | NC1=C(C#N)C(=CC(=N1)C(C)C)C(C)C | C12H17N3
